US04434175
Step A. Preparation of ethyl 4-methoxy-3-ethoxycarbonyl-1-methylpyrrole-2-acetate
Ethyl 4-hydroxy-3-ethoxycarbonyl-1-methylpyrrole-2-acetate (20 mmole) is dissolved in 10 μl of diethyl ether containing diazomethane freshly prepared from N-methyl-N-nitrosourea and potassium hydroxide. After the reaction is allowed to stand at room temperature for about 0.5 hour, the ether is evaporated under reduced pressure at mild temperature and the residue, i.e., crude ethyl-4-methoxy-3-ethoxycarbonyl-1-methylpyrrole-2-acetate, is used in the next step without further purification.

reactant | Ethyl 4-hydroxy-3-ethoxycarbonyl-1-methylpyrrole-2-acetate | 20 mmole | OC=1C(=C(N(C1)C)CC(=O)OCC)C(=O)OCC | C12H17NO5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-methyl-N-nitrosourea | CN(C(=O)N)N=O | C2H5N3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethyl ether | 10 μl | C(C)OCC | C4H10O
product | ethyl 4-methoxy-3-ethoxycarbonyl-1-methylpyrrole-2-acetate | COC=1C(=C(N(C1)C)CC(=O)OCC)C(=O)OCC | C13H19NO5
